US06107291
A solution of 3-(hydroxy-phenyl-methyl)-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid benzhydryloxy-amide (5 mg, 0.008 mmoL) in dichloromethane (1 mL) was cooled to 0° C. This solution was treated with trifluoroacetic acid (0.1 mL) followed by a 0.31 M solution of triethylsilane in dichloromethane (0.026 mL). The reaction mixture was warmed from 0 to 25° C. over 35 minutes and then the solvents were removed in vacuo and the residue was coevaporated with toluene. The residue was purified by flash chromatography (silica, 5 to 10% methanol in dichloromethane) to give 3-(hydroxy-phenyl-methyl)-1(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid hydroxyamide as a white solid; MS: (M-H)- 430.9.

reactant | 3-(hydroxy-phenyl-methyl)-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid benzhydryloxy-amide | 5 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)ONC(=O)C1N(CC=CCC1C(C1=CC=CC=C1)O)S(=O)(=O)C1=CC=C(C=C1)OC | C34H34N2O6S
reactant | trifluoroacetic acid | 0.1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | C(C)[SiH](CC)CC | C6H16Si
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 0.026 mL | ClCCl | CH2Cl2
product | 3-(hydroxy-phenyl-methyl)-1(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid hydroxyamide | ONC(=O)C1N(CC=CCC1C(C1=CC=CC=C1)O)S(=O)(=O)C1=CC=C(C=C1)OC | C21H24N2O6S
